US07018988B2
(2S,4EZ)-N1-(3,5-dichlorophenyl)-4-(ethoxyimino)-N2-[2-(1H-pyrrol-1-yl)phenyl]-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, 1,3-dichloro-5-isocyanatobenzene, and 2-(1H-pyrrol-1-yl)phenylamine the title compound was obtained in 54% purity by LC/MS. MS(ESI+): m/z=500.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 2-(1H-pyrrol-1-yl)phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
product | (2S,4EZ)-N1-(3,5-dichlorophenyl)-4-(ethoxyimino)-N2-[2-(1H-pyrrol-1-yl)phenyl]-1,2-pyrrolidinedicarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)NC1=C(C=CC=C1)N1C=CC=C1 | C24H23Cl2N5O3
